US05693594
A mixture of 26,36g (92.9 mmol) ethyl-2-(3-chlorophenoxy)thiazole-4-carboxylate (prepared analogously to the procedures of Example 1c), 7.5 g (187.5 mmol) NaOH and 300 ml of water was stirred 1 hour at 60° C. and 16 hours at room temperature. After adding a small amount of charcoal the yellow solution was stirred 10 minutes at room temperature and the charcoal separated by silica gel filtration. The filtrate was acidified with conc. HCl and the precipitate was collected and dried to give 22.5 g (94.7%) of 2-(3-chlorophenoxy)thiazole-4-carboxylic acid of m.p. 135°-137° C.

reactant | ethyl-2-(3-chlorophenoxy)thiazole-4-carboxylate | C(C)OC(=O)C=1N=C(SC1)OC1=CC(=CC=C1)Cl | C12H10ClNO3S
reactant | NaOH | 187.5 mmol, 7.5 g | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | water | 300 ml | O | H2O
product | 2-(3-chlorophenoxy)thiazole-4-carboxylic acid | 22.5 g, 94.7% | ClC=1C=C(OC=2SC=C(N2)C(=O)O)C=CC1 | C10H6ClNO3S
